US06921763B2
A solution of trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.700 g, 1.6 mmol) in pyridine (11 mL) at 0° C. was treated with hydrocinnamoyl chloride (0.324 g, 1.92 mmol). The reaction mixture was stirred at 0° C. for 20 min and the ice bath was removed to stir at room temperature. The reaction was complete after 5.5 hours. Sodium hydroxide solution (1 N, 20 mL) was added and stirred for 30 minutes. The organic layer was removed under reduced pressure. Dichloromethane (20 mL) was added, and the layers were partitioned. The aqueous layer was extracted with dichloromethane (80 mL). The combined organic layers were washed with water, dried over magnesium sulfate, filtered and evaporated under reduced pressure. The crude material was purified by flash chromatography on silica gel using a gradient of 5% methanol in dichloromethane to 50% methanol in dichloromethane on a 35 g ISCO silica gel column to give 0.569 g (63%) of trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-3-phenylpropanamide. trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-3-phenylpropanamide (0.569 g, 1 mmol) in warmed ethyl acetate was treated with a warmed solution of maleic acid (0.384 g, 3 mmol) in ethyl acetate. The formed precipitate was filtered under a nitrogen atmosphere and dried under high vacuum to give the tri maleate salt. 1H NMR (d6-DMSO) δ 9.238 (s, 1H), 8.2216 (s, 1H), 8.1991-8.1786 (d, 1H, J=8.2 Hz), 7.3147-7.2664 (m, 4H), 7.2366-7.2330 (m, 1H), 7.2026-7.1732 (dd, 2H), 6.171 (s, 6H), 4.6649-4.6083 (m, 1H), 4.0948-4.0697 (m, 1H), 3.8916 (s, 3H), 3.1750-3.1632 (d, 2H, J=4.72 Hz), 2.9364-2.8984 (m, 2H), 2.7885-2.7506 (m, 2H), 2.5290 (s, 2H), 2.3905-2.3231 (m, 4H), 2.1489 (s, 3H), 2.0549-1.9243 (m, 6H), 1.4821-1.4457 (m, 2H); LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 μm particle size, 33×4.6 mm; 70% 50 mM ammonium Acetate in Water to 95% Acetonitrile over 6 min, 0.8 to 0.5 mL/min) Rt 1.75 min (100%), M+569.4.

reactant | trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.6 mmol, 0.700 g | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)OC | C23H32N8O
reactant | hydrocinnamoyl chloride | 1.92 mmol, 0.324 g | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
solvent | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
product | trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-3-phenylpropanamide | 0.569 g, 63% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(CCC2=CC=CC=C2)=O)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C32H40N8O2
